US05145865
(1) Methyl 4-[1-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-pyrrolidon-4-yl]methoxybenzoate
Methyl 4-[1-[4-(2-hydroxyethoxy)phenyl]-2-pyrrolidon-4-yl]methoxybenzoate (3.00 g) is dissolved in methylene chloride (30 ml) and the mixture is cooled with ice. Thereto are added methanesulfonyl chloride (0.90 ml) and triethylamine (2.16 ml) severally and the mixture is stirred at room temperature for 16 hours. The reaction mixture is concentrated under reduced pressure and ethyl acetate (60 ml) is added to the residue. The mixture is washed with water three times, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel column chromatography and eluted with chloroform to give the desired product (3.39 g) as powder.

reactant | Methyl 4-[1-[4-(2-hydroxyethoxy)phenyl]-2-pyrrolidon-4-yl]methoxybenzoate | 3.00 g | OCCOC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C21H23NO6
reactant | methanesulfonyl chloride | 0.90 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.16 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-[1-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-pyrrolidon-4-yl]methoxybenzoate | 3.39 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C22H25NO8S
